US04783530
1,3-Dimethyl-8-(4-cyanophenyl)xanthine hydrate was prepared by treatment of 1,3-dimethyl-5,6-diaminouracil hydrate (9.0 g, 52.9 mmol) with 4-cyanobenzaldehyde (6.9 g, 52.7 mmol) in ethanol (700 ml) in the presence of acetic acid (3 ml) at reflux for 5 hours. The reaction mixture was cooled to 0° C. and the resulting precipitate was collected. The crude iminouracil was dissolved in ethylene glycol dimethyl ether (700 ml) and treated with DEAD (11 ml) at reflux for 4 hours. The reaction mixture was cooled to 0° C. and the resulting precipitate was collected and recrystallized from 4:4:2 methanol:ethyl acetate:water. mp.>300° C. IR (KBr) 3412, 3320, 2965, 2936, 2877, 1680, 1604, 1512 cm-1. Anal. Calcd. for C14H11N5O2.H2O. C,56.18, H, 4.37; N, 23.40. Found: C, 56.20; H, 4.04; N,23.17.

reactant | 1,3-dimethyl-5,6-diaminouracil hydrate | 52.9 mmol, 9.0 g | O.CN1C(=O)N(C(=O)C(=C1N)N)C
reactant | 4-cyanobenzaldehyde | 52.7 mmol, 6.9 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 1,3-Dimethyl-8-(4-cyanophenyl)xanthine hydrate | O.CN1C(=O)N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)C#N)C | InChI=1S/C14H11N5O2.H2O/c1-18-12-10(13(20)19(2)14(18)21)16-11(17-12)9-5-3-8(7-15)4-6-9;/h3-6H,1-2H3,(H,16,17);1H2
